US05658491
Preparation of 5-Octyl-2-[4-(6-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)hexyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (1.01 g, 3.55 mmol) and 6-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromohexane (2.4 g, 4.03 mmol; prepared by combining 1,6-dibromohexane and 2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethanol). The resulting crude product was isolated and further purified essentially as described in Example 3, eluting with 1 vol. % ethyl acetate/toluene

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 3.55 mmol, 1.01 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 6-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromohexane | 4.03 mmol, 2.4 g | FC(C(C(OC(C(OC(COCCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C14H14BrF15O3
product | 5-Octyl-2-[4-(6-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)hexyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C32H37F15N2O4
